US04483707
Preparation of methyl 4-chlorophenylamino-oxo-acetate
With stirring, 6.7 g of monomethyl oxalate chloride are added dropwise at 0° to 5° C. to a solution of 6.4 g of 4-chloroaniline and 7.9 g pyridine in 150 ml of dry methylene chloride. When the addition is complete, the suspension is stirred for 30 minutes at room temperature, then diluted with 100 ml of methylene chloride, washed twice with 3N hydrochloric acid and once with saturated sodium bicarbonate solution, dried and concentrated. The residual oil crystallises on trituration, affording 10.4 g of crystalline title compound with a melting point of 162°-164° C.

reactant | monomethyl oxalate chloride | 6.7 g | [Cl-].C(C(=O)[O-])(=O)OC
reactant | 4-chloroaniline | 6.4 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | pyridine | 7.9 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-chlorophenylamino-oxo-acetate | 10.4 g | ClC1=CC=C(C=C1)NC(C(=O)OC)=O | C9H8ClNO3
